US06809108B1
Synthesis of 2-amino-N-{((3R)-1-cyclohexylmethyl-3-piperidyl)methyl}acetamide
The title compound was prepared by conducting procedures similar to Steps 1-2 of Example 17, using (3R)-3-aminomethyl-1-(cyclohexylmethyl)piperidine and (tert-butoxycarbonyl)-glycine.

reactant | (3R)-3-aminomethyl-1-(cyclohexylmethyl)piperidine | NC[C@@H]1CN(CCC1)CC1CCCCC1 | C13H26N2
reactant | (tert-butoxycarbonyl)-glycine | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
product | 2-amino-N-{((3R)-1-cyclohexylmethyl-3-piperidyl)methyl}acetamide | NCC(=O)NC[C@@H]1CN(CCC1)CC1CCCCC1 | C15H29N3O
